* C:\Users\gavin\Documents\0Shared_Files\Personal_Projects\LTSPICE\oscillator.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N001 N009 1m
C1 N005 0 500n
C2 0 N009 100n
Q1 N001 N008 N013 0 2N2222
R1 N013 0 750
R2 N001 N005 1
R3 N004 N001 1.75k
R4 N008 0 14.5k
R5 Vpos N008 35.5k
C3 N010 N009 1µ
L2 Vpos N004 1m
C4 N006 N001 1n
C5 N013 0 1µ
R6 N008 N010 10k
V2 Vpos 0 5v
R7 Vpos N002 20k
R8 N002 0 10k
Q3 N007 N012 N014 0 2N2222
R13 N014 0 750
R14 N003 N007 1.75k
R15 N012 0 14.5k
R16 N003 N012 35.5k
C7 N014 0 1µ
Q2 Vpos N006 N011 0 2N2222
R9 Vpos N006 25k
R10 N006 0 25k
R11 N011 0 1.8k
C6 N012 N011 26n
V1 N003 0 9
.model NPN NPN
.model PNP PNP
.lib C:\Users\gavin\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10ms uic
.backanno
.end
